Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base / Penicillins / Codeine / Levofloxacin
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a ___ F with history of recently diagnosed high 
grade transitional cell cancer, DM, ___ and AF on coumadin who 
presents with chest pain. She was supposed to be evaluated to 
start hospice services at home today but complained of these 
symptoms and came to the ED instead. Patient complains of 
increased urinary frequency starting last night that caused her 
to get up every hour to urinate. She felt very weak this morning 
and while getting bathed, she developed left sided CP with DOE, 
dull ___, that lasted a few minutes before resolving.  
.  
In the ED, initial vs were: T 98.7 P 56 BP 147/54 R O2 sat 97% 
on 2L NC. Patient was given full dose aspirin. Her EKG was 
consistent with atrial fibrillation with questionable lateral ST 
depressions in V2/V5/V6. Her first set of cardiac enzymes were 
negative. CXR showed small bilateral pleural effusions, 
unchanged from prior. Cardiology was consulted, and both patient 
and cards said no intervention. She was admitted to medicine for 
management.  
.  
On the floor, she reports feeling well. She and her daughter 
both believe that she was likely exhausted from over exerting 
herself the day before by making meatballs and frequently 
getting up to urinate. No further episodes of chest pain or 
discomfort.  

 
Past Medical History:
High grade TCC of left kidney (opted to forgo surgical tx and go 
with hospice care)  
Diabetes Type 2  
COPD  
Atrial Fibrillation  
Congestive Heart Failure  
St. ___ aortic valve replacement in ___ (for presumed AS  
secondary to rheumatic heart disease, per daughter not in ___  
Osteoarthritis  
HTN  
Hyperlipidemia  
Hx of diverticulitis  

 
Social History:
___
Family History:
Sister and two brothers with type ___ diabetes. Brother with lung 
dysfunction, on home oxygen. Family history of asthma and 
emphysema. 
 
Physical Exam:
Vitals: T: 98.5 BP: 150/67 P: 85 R: 18 O2: 97% 2L NC  
General: Alert, oriented, no acute distress  
HEENT: NC/AT, EOMI, Sclera anicteric, MMM, oropharynx clear  
Neck: supple, no LAD  
Lungs: Bilateral decreased bibasalar breath sounds otherwise 
clear, no wheezes, rales, rhonchi  
CV: Irregularly irregular, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, no clubbing, cyanosis or edema  

 
Pertinent Results:
Admission labs ___:

WBC-8.9 RBC-3.92* Hgb-11.5* Hct-33.8* MCV-86 MCH-29.3 MCHC-34.0 
RDW-13.6 Plt ___ PTT-35.5* ___
Glucose-222* UreaN-31* Creat-1.2* Na-138 K-4.0 Cl-102 HCO3-27 
AnGap-13
CK(CPK)-67 CK-MB-NotDone cTropnT-0.02* proBNP-4452*
Digoxin-1.___ year old female with history of high grade transitional cell 
cancer, DM, ___ and AF on coumadin who presents with chest pain. 
 
  
# Chest pain: She ruled out for MI with two sets of stable 
enzymes. After extensive goals of care discussion, patient and 
her daughter (HCP) would not want invasive treatment (ie cath) 
even if she did have a MI. The etiology of her chest pain is 
likely anxiety and fatigue. Her home statin and reduced dose of 
beta blocker were continued.  
 
# Atrial fibrillation: She has known atrial fibrillation and 
takes diltiazem and metoprolol at home for rate control as well 
as warfarin. Patient had brief asymptomatic episodes of 
bradycardia to the ___ and her dose of metoprolol was reduced. 
Her dose of warfarin was decreased to 2mg daily after an INR 
elevated to 3.8.
  
# Transitional cell carincoma: Patient has declined surgical 
resection and wishes to do home hospice care. She was supposed 
to initiate home hospice on the day of admission but ended up 
coming into hospital instead. After thorough discussion with 
help of palliative care, the patient and her daughter (her HCP) 
agreed that she would continue home hospice care after 
discharge.  
  
# Diabetes mellitus: While in the hospital, her oral agents were 
held and she was maintained on insulin sliding scale and lantus. 
 At discharge, her home regimen was resumed.
  
# Chronic renal insufficiency: Her creatinine remained within 
her recent baseline. Her chronic renal insufficiency is likely 
related to her underlying transitional cell carcinoma with left 
renal involvement.  
  
# Congestive Heart Failure: Patient EF >55% on TTE ___. She 
appeared euvolemic throughout admission.  
  
# COPD: She was continued on advair and combivent.  
  
# ___: Patient has a history of ___ in ___.  Patient 
was continued on warfarin with INR goal 2.5-3.5.  Her dose of 
warfarin was decreased to 2mg daily after an INR elevated to 
3.8.
 
# Hyperlipidemia: Her statin was continued.  

 
Medications on Admission:
DIGOXIN 125 mcg daily  
DILTIAZEM HCL 90 mg QID  
ADVAIR 250 mcg-50 mcg 1 puff BID  
FUROSEMIDE 80 mg daily  
GLYBURIDE 5 mg BID  
LANTUS 22 units daily  
HUMALOG take as directed three times a day  
COMBIVENT ___ whiff inhaled QID PRN  
METOPROLOL SUCCINATE 37.5 mg daily  
SIMVASTATIN 40 mg daily  
WARFARIN ___ mg daily  
FIBERCON 625 mg daily  

 
Discharge Medications:
1. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Diltiazem HCl 90 mg Tablet Sig: One (1) Tablet PO QID (4 
times a day).  
3. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
4. Furosemide 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Ipratropium-Albuterol ___ mcg/Actuation Aerosol Sig: ___ 
Puffs Inhalation Q6H (every 6 hours) as needed for wheezing, 
SOB.  
6. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Warfarin 2 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
10. Polyethylene Glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily) as needed for constipation.  
11. Glyburide 5 mg Tablet Sig: One (1) Tablet PO twice a day.  
12. Insulin Glargine 100 unit/mL Solution Sig: ___ (22) 
units Subcutaneous once a day.  
13. Insulin sliding scale
Please continue your previous home Humalog insulin sliding 
scale.
14. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary:
Chest pain

Secondary:
Atrial fibrillation
Transitional cell carcinoma
Diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
You were admitted to the hospital for chest pain.  Your heart 
enzymes were checked, and you did not have any evidence of a 
heart attack.  After a thorough discussion with you and your 
daughter, you were discharged home to continue setting up 
hospice care.  Please follow-up with Dr. ___ as needed.

The following changes were made to your medications:
1. Decreased your dose of metoprolol XL to 25mg daily.
2. Changed your warfarin to 2mg daily dosing.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___